US06552017B1
To a solution of ethyl-1,1,3-trimethyl-2,3,9,10-tetrahydro-1H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxaline-8(7H)-carboxylate (69 mg, 0.21 mmol) in TFA (2 mL) at 0° C. was added NaBH3CN (53 mg, 0.84 mmol). The mixture was stirred at rt for 4 hours, and then removed the TFA by N2. About 10 mL of H2O was added and then was extracted with EtOAc (2×10 mL). The combined extracts were dried over magnesium sulfate and concentrated to afford ethyl-1,1,3-trimethyl-2,3,6b,9,10,10a-hexahydro-1H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxaline-8(7H)-carboxylate as an oil which was used for the next reaction (45 mg, 65%). MS [M+H]+330.

reactant | ethyl-1,1,3-trimethyl-2,3,9,10-tetrahydro-1H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxaline-8(7H)-carboxylate | 0.21 mmol, 69 mg | C(C)OC(=O)N1CC2=C(N3C(CN(C=4C=CC=C2C34)C)(C)C)CC1 | C19H25N3O2
reactant | NaBH3CN | 0.84 mmol, 53 mg | [BH3-]C#N.[Na+]
solvent | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | ethyl-1,1,3-trimethyl-2,3,6b,9,10,10a-hexahydro-1H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxaline-8(7H)-carboxylate | C(C)OC(=O)N1CC2C(N3C(CN(C=4C=CC=C2C34)C)(C)C)CC1 | C19H27N3O2
